US04866089
Preparation of 6-methoxy-7-ethoxy-2,2-dimethyl-4-chromanone
In 100 ml of acetone 4.7 g (20 millimoles) of 6-hydroxy-7-ethoxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 4.1 g (30 millimoles) of potassium carbonate and 4.5 g (2 ml, 30 millimoles) of methyl iodide are added. The reaction mixture is refluxed for 4 hours, the inorganic salt is filtered off, washed twice with 20 ml of acetone and the half of the solvent is removed. The residue is cooled to 0° C., the precipitated product is filtered off and dried to constant weight. Thus 4.6 g of the desired compound are obtained, yield 92%. Mp.: 120°-122° C.

reactant | acetone | 20 millimoles, 100 ml, 4.7 g | CC(=O)C | C3H6O
reactant | potassium carbonate | 30 millimoles, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 30 millimoles, 2 ml, 4.5 g | CI | CH3I
reactant | 6-hydroxy-7-ethoxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1OCC)(C)C)=O | C13H16O4
product | 6-methoxy-7-ethoxy-2,2-dimethyl-4-chromanone | 4.6 g, yield 92% | COC=1C=C2C(CC(OC2=CC1OCC)(C)C)=O | C14H18O4
